US07238716B2
A mixture of methyl 4-[4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyloxy]phenylacetate (510 mg), a 1N aqueous sodium hydroxide solution (2.5 mL), methanol (5 mL) and tetrahydrofuran (10 mL) was stirred at 60° C. for 1 hr. Water was added to the reaction mixture, 1N hydrochloric acid (3 mL) was added to the mixture, and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crystals of 4-[4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyloxy]phenylacetic acid. The crystals were recrystallized from diethyl ether-hexane to give colorless prism crystals (427 mg, 87%). melting point: 116-118° C.

reactant | methyl 4-[4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyloxy]phenylacetate | 510 mg | CC(C1=CC=C(COC2=CC=C(C=C2)CC(=O)OC)C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C27H26N2O3S
reactant | sodium hydroxide | 1N, 2.5 mL | [OH-].[Na+]
reactant | methanol | 5 mL | CO | CH4O
reactant | hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-[4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyloxy]phenylacetic acid | CC(C1=CC=C(COC2=CC=C(C=C2)CC(=O)O)C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C26H24N2O3S
